US05859007
C. 2-[7,8-Difluoro-3-(1-tert-butoxycarbonyl-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
To a solution of 0.500 g of 2-(7,8-difluoro-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide, prepared as in Part B, (1.013 mmol) in 5 mL dimethylformamide at 0° C. under nitrogen is added 2.43 mL (1.22 mmol, 1.2 equiv) potassium bis(trimethylsilyl)amide (0.5M in toluene) dropwise over 5 min. After stirring 5 min., 346 mg of 3-bromomethyl-1-tert-butoxycarbonyl-1H-indazole (1.11 mmol, 1.1 equiv) is added. After 1 h at 0° C., the reaction is quenched by addition to a stirring mixture of ethyl acetate, water and saturated aqueous brine. The mixture is transferred to a separatory funnel and the layers were separated. The organic layer is washed with 1:1 water/saturated aqueous brine. The aqueous layers were combined and washed twice with ethyl acetate. The organic layers were combined, washed with saturated aqueous brine, dried over anhydrous sodium sulfate, and then evaporated in vacuo to an oil. The crude product is purified on flash grade silica gel using 25-30% ethyl acetate in hexane. The appropriate fractions were combined, evaporated in vacuo and triturated with hexane. The hexane is evaporated in vacuo and the residual solid is dried under high vacuum to provide 525 mg of the title compound as a white solid: 1H NMR (300 MHz, CDCl3) δ8.06 (d, 1H, J=8.3), 7.84 (d, 1H, J=7.9), 7.49 (m, 1H), 7.38 (m, 2H), 7.29 (m, 6H), 7.12 (m, 1H), 6.98 (m, 2H), 6.78 (dd, 1H, J=8.5, 10.6), 4.99 (m, 1H), 4.36 (dd, 1H, J=4.6, 8.7), 4.20 (s, br, 2H), 3.85 (s, 3H), 3.84 (m, 1H), 3.52 (dd, 1H, J=4.6 16.8), 1.67 (s, 9H), 1.08 (m, 6H); low resolution MS (FAB)m/e 724 (MH+).

reactant | 2-(7,8-difluoro-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 0.500 g | FC1=CC2=C(N(C(CC(N2C2=CC=CC=C2)=O)=O)CC(=O)N(C2=CC=C(C=C2)OC)C(C)C)C=C1F | C27H25F2N3O4
reactant | potassium bis(trimethylsilyl)amide | 1.22 mmol, 0.5M, 2.43 mL, 1.2 equiv | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-bromomethyl-1-tert-butoxycarbonyl-1H-indazole | 1.11 mmol, 346 mg, 1.1 equiv | BrCC1=NN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C13H15BrN2O2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-[7,8-Difluoro-3-(1-tert-butoxycarbonyl-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 525 mg | FC1=CC2=C(N(C(C(C(N2C2=CC=CC=C2)=O)CC2=NN(C3=CC=CC=C23)C(=O)OC(C)(C)C)=O)CC(=O)N(C2=CC=C(C=C2)OC)C(C)C)C=C1F | C40H39F2N5O6
